US04296129
N-(1-Methyldecyl)-3-(3-[4-carboxybutanamido]phenyl)-2-butenamide
A stirred solution of 0.61 g. of N-(1-methyldecyl)-3-(3-aminophenyl)-2-butenamide, prepared in a manner analogous to Preparation 27, in 25 ml. of toluene, was heated on a steam bath and then 0.23 g. of glutaric anhydride was added in one portion. After 5 minutes, the reaction mixture was cooled and the solvent was removed by evaporation in vacuo. The residue was recrystallized twice from acetonitrile, to give 370 mg. of the title compound, m.p. 136°-140° C. This latter material was recrystallized from isopropanol/water to give 196 mg. of material having a melting point of 140°-141.5° C. The IR spectrum (KBr disc) showed absorptions at 3390, 2895, 1724, 1681, 1613 and 1575 cm-1. The NMR spectrum (DMSO-d6) showed absorptions at 0.90 (m, 3H), 1.08 (m, 3H), 1.26 (s, 16H), 1.89 (m, 2H), 2.40 (m, 7H, under DMSO-d6), 3.80 (m, 1H), 6.19 (s, 1H), 7.51 (m, 6H) and 9.90 (s, 1H) ppm.

reactant | N-(1-methyldecyl)-3-(3-aminophenyl)-2-butenamide | CC(CCCCCCCCC)NC(C=C(C)C1=CC(=CC=C1)N)=O | C21H34N2O
reactant | glutaric anhydride | C1(CCCC(=O)O1)=O | C5H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(1-Methyldecyl)-3-(3-[4-carboxybutanamido]phenyl)-2-butenamide | CC(CCCCCCCCC)NC(C=C(C)C1=CC(=CC=C1)NC(CCCC(=O)O)=O)=O | C26H40N2O4
